US04605652
N-(1-Azabicyclo[2.2.2]oct-3-yl)-5-bromo-2,4-dimethoxybenzamide Monohydrochloride
A solution of 3-aminoquinuclidine (1.12 g, 0.0089 mole) in 20 ml tetrahydrofuran was added dropwise to a stirred solution of 5-bromo-2,4-dimethoxybenzoyl chloride (2.50 g, 0.0089 mole) in 100 ml tetrahydrofuran. The mixture was stirred at ambient temperature for 65 hr, and the solid was collected by filtration to yield 2.77 g. Recrystallization from methanol-isopropyl ether gave 1.45 g (40.2%), m.p. 240°-243° C.

reactant | 3-aminoquinuclidine | 0.0089 mole, 1.12 g | NC1CN2CCC1CC2 | C7H14N2
reactant | 5-bromo-2,4-dimethoxybenzoyl chloride | 0.0089 mole, 2.50 g | BrC=1C(=CC(=C(C(=O)Cl)C1)OC)OC | C9H8BrClO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-5-bromo-2,4-dimethoxybenzamide Monohydrochloride | Cl.N12CC(C(CC1)CC2)NC(C2=C(C=C(C(=C2)Br)OC)OC)=O | InChI=1S/C16H21BrN2O3.ClH/c1-21-14-8-15(22-2)12(17)7-11(14)16(20)18-13-9-19-5-3-10(13)4-6-19;/h7-8,10,13H,3-6,9H2,1-2H3,(H,18,20);1H
